US08664431B2
9.9 g (60 mmol) 2-hydroxy-2-methyl-1-phenyl-1-propanone (DAROCUR™ 1173) was dissolved in 60 ml tetrahydrofuran. 6.1 g (60 mmol) triethyl amine was added and the reaction mixture was cooled to −10° C. 7.6 g (60 mmol) 3-chloro-propionyl chloride was added while the temperature was kept below −5° C. The reaction was allowed to continue for 30 minutes at 0° C. and for 72 hours at 40° C. The precipitated salts were removed by filtration and the solvent was evaporated under reduced pressure. 3-chloro-propionic acid 1,1-dimethyl-2-oxo-2-phenylethyl ester was purified by preparative column chromatography on a Prochrom LC80 column, using n.-hexane/ethyl acetate 80/20 as eluent at a flow rate of 150 ml/min and Kromasil 60A 10 micron as silica. 1 g of 3-chloro-propionic acid 1,1-dimethyl-2-oxo-2-phenylethyl ester was isolated.

reactant | 2-hydroxy-2-methyl-1-phenyl-1-propanone | 60 mmol, 9.9 g | OC(C(=O)C1=CC=CC=C1)(C)C | C10H12O2
reactant | triethyl amine | 60 mmol, 6.1 g | C(C)N(CC)CC | C6H15N
reactant | 3-chloro-propionyl chloride | 60 mmol, 7.6 g | ClCCC(=O)Cl | C3H4Cl2O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 3-chloro-propionic acid 1,1-dimethyl-2-oxo-2-phenylethyl ester | 1 g | CC(C(C1=CC=CC=C1)=O)(C)OC(CCCl)=O | C13H15ClO3
